US04165377
To a solution of 2-(2-methylguanidino)-4-[4-(3-cyano-2-methylisothioureido)butyl]thiazole (0.38 g.) in ethanol (10 ml.) was added 33% w/v ethanolic methylamine (40 ml.). The mixture was stirred overnight, evaporated to dryness and the residue triturated with water. The solid thus obtained was filtered and dried to give 2-(2-methylguanidino)-4-[4-(2-cyano-3-methylguanidino)butyl]thiazole, m.p. 119°-122° C.

reactant | 2-(2-methylguanidino)-4-[4-(3-cyano-2-methylisothioureido)butyl]thiazole | 0.38 g | CN=C(NC=1SC=C(N1)CCCCNC(SC)=NC#N)N | C12H19N7S2
reactant | methylamine | 40 ml | CN | CH5N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(2-methylguanidino)-4-[4-(2-cyano-3-methylguanidino)butyl]thiazole | CN=C(NC=1SC=C(N1)CCCCNC(=NC#N)NC)N | C12H20N8S
